US04558155
N-[2-(2-Chlorophenoxy)ethyl]-1-methylethanamine Hydrochloride.
Following the procedure of Example 11, 2-bromoethyl-2-chlorophenyl ether was reacted with isopropyl amine (excess) and the reaction mixture processed to give an oil, the free base of the title compound. A portion of the oil was reacted with ethereal hydrogen chloride and the hydrochloride salt recrystallized from methanol-diethyl ether, m.p. 118°-119.5° C. (75%).

reactant | 2-bromoethyl-2-chlorophenyl ether | BrCCC=1C(=C(C=CC1)OC1=C(C(=CC=C1)CCBr)Cl)Cl | C16H14Br2Cl2O
reactant | isopropyl amine | C(C)(C)N | C3H9N
product | N-[2-(2-Chlorophenoxy)ethyl]-1-methylethanamine Hydrochloride | Cl.ClC1=C(OCCNC(C)C)C=CC=C1 | InChI=1S/C11H16ClNO.ClH/c1-9(2)13-7-8-14-11-6-4-3-5-10(11)12;/h3-6,9,13H,7-8H2,1-2H3;1H
